US04409214
A mixture of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (5.45 g), conc. hydrochloric acid (5 ml) and methanol (150 ml) was stirred at ambient temperature for 1.5 hours. After removal of the solvent, to the residue were added ethyl acetate and water, followed by adjusting to pH 7 with 20% aqueous sodium carbonate. The separated ethyl acetate solution was washed with an aqueous sodium chloride and then dried over anhydrous magnesium sulfate. Removal of the solvent gave benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (4.6 g).

reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 5.45 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC1=NC=CC=C1 | C34H28N6O6S2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 4.6 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC1=NC=CC=C1 | C33H28N6O5S2
